US08067445B2
Step 2: 2-(3-Bromo-5-chloro-phenyl)-propionic acid
2-(3-Bromo-5-chloro-phenyl)-propionic acid ethyl ester (2.0 g, 6.9 mmol) in 2:2:1 MeOH:THF:H2O was treated with 1N aqueous LiOH (3 mL) and stirred at room temperature overnight. The mixture was acidified with 10% aqueous HCl (10 mL) and extracted three times with EtOAc. The combined organic layers were concentrated, and the residue was purified by silica gel chromatography to give the title compound.

reactant | 2-(3-Bromo-5-chloro-phenyl)-propionic acid ethyl ester | 6.9 mmol, 2.0 g | C(C)OC(C(C)C1=CC(=CC(=C1)Cl)Br)=O | C11H12BrClO2
reactant | MeOH | CO | CH4O
reactant | LiOH | 1N, 3 mL | [Li+].[OH-]
reactant | HCl | 10 mL | Cl | ClH
solvent | H2O | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(3-Bromo-5-chloro-phenyl)-propionic acid | BrC=1C=C(C=C(C1)Cl)C(C(=O)O)C | C9H8BrClO2
